US05866612
6-Cyanoindan-1-one (prepared using the procedure of Allinger and Jones, JOC 1962, p70. vol 27 for the tetralone analogue) (3.86 g, 24.5 mmol) was converted to the 1-oxime-O-benzyl ether and reduced with BH3 -THF by the methods described in example 59 to give 1-amino-6-(aminomethyl)indane. The diamine was isolated in 31% yield as the 2 HCl salt by treatment of an ether solution with 4.0N HCl in dioxane. 1-Amino-6-aminomethylindane 2HCl (0.5 g, 2.1 mmol) was stirred in EtOH (20 ml), cooled to 0° C. and treated with NEt3 (0.59 ml, 4.2 mmol). Intermediate A (0.43 g, 2.1 mmol) was added and the mixture was allowed to warm to 20° C. and stir overnight. The white crystaline product was collected and washed with a small volume of ether and dried in vacuo to give N-(6-(Aminomethyl)-1-indanyl)acetamidine (0.27 g, 35%) as the 2 HCl salt. NMR (D2 0) 7.45-7.25 (m, 3H), 4.8 (m, 1H), 4.45 (s, 2H), 3.2-2.85 (m, 2H), 2.6)m, 1H), 2.2 (s, 3H, CH3), 2.1 (m, 1H).

reactant | 1-Amino-6-aminomethylindane 2HCl | 2.1 mmol, 0.5 g | Cl.Cl.NC1CCC2=CC=C(C=C12)CN
reactant | NEt3 | 4.2 mmol, 0.59 ml | CCN(CC)CC | C6H15N
solvent | EtOH | 20 ml | CCO | C2H6O
product | N-(6-(Aminomethyl)-1-indanyl)acetamidine | 0.27 g, 35% | NCC1=CC=C2CCC(C2=C1)NC(C)=N | C12H17N3
